US03971773
C. 21-Chloro-11β,17-dihydroxy-16α-(oxiranylmethoxy)-pregn-4-ene-3,20-dione
A solution of 16α-allyloxy-21-chloro-11β,17-dihydroxypregn-4-ene-3,20-dione (3.8 mmoles) in 50 ml of dichloromethane is stirred with 0.76 g of m-chloroperbenzoic acid for 19 hours at room temperature. The resulting solution is washed with a mixture of 10% potassium carbonate solution and 10% sodium sulfite solution, dried, and evaporated in vacuo to yield the title compound.

reactant | 16α-allyloxy-21-chloro-11β,17-dihydroxypregn-4-ene-3,20-dione | 3.8 mmoles | C(C=C)O[C@H]1[C@](C(CCl)=O)([C@]2(C[C@@H]([C@@H]3[C@]4(CCC(C=C4CC[C@H]3[C@@H]2C1)=O)C)O)C)O | C24H33ClO5
reactant | m-chloroperbenzoic acid | 0.76 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 21-Chloro-11β,17-dihydroxy-16α-(oxiranylmethoxy)-pregn-4-ene-3,20-dione | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)OCC1OC1)O)=O | C24H33ClO6
